US04419357
A slurry of 11.6 g of 2-amino-4,5-methylenedioxy-N-(1H-tetrazol-5-yl)benzamide and 25 g of triethoxymethane in 150 ml of 2-methoxyethanol was heated at reflux for 1 hour. A complete solution was not obtained at any time but the final mixture was filtered and the separated solid was air dried and recrystallized from a mixture of dimethylformamide and methanol to give 6,7-methylenedioxy-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone melting at about 280° C. (dec).

reactant | 2-amino-4,5-methylenedioxy-N-(1H-tetrazol-5-yl)benzamide | 11.6 g | NC1=C(C(=O)NC2=NN=NN2)C=C2C(=C1)OCO2 | C9H8N6O3
reactant | triethoxymethane | 25 g | C(C)OC(OCC)OCC | C7H16O3
solvent | 2-methoxyethanol | 150 ml | COCCO | C3H8O2
product | 6,7-methylenedioxy-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone | C1OC=2C=C3C(N(C=NC3=CC2O1)C1=NN=NN1)=O | C10H6N6O3
